US06733905B2
In an autoclave, 60.0 g (368 mM) of 1-hydroxy-2-(2-pyridyl)cyclopentane was placed and stirred for 60 hours at 170° C., followed by cooling, addition of water and extraction with methylene chloride. The organic layer was dried with anhydrous sodium sulfate, followed by distilling-off of the solvent under reduced pressure and then purification by silica gel column chromatography (eluent: hexane/ethyl acetate=8/1) to obtain 28.0 g of liquid 1-(2-pyridyl)cyclopentene (Yield: 52.5%).

reactant | 1-hydroxy-2-(2-pyridyl)cyclopentane | 368 mM, 60.0 g | OC1C(CCC1)C1=NC=CC=C1 | C10H13NO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-pyridyl)cyclopentene | Yield: 52.5% | N1=C(C=CC=C1)C1=CCCC1 | C10H11N
